US04288615
Netherlands Appln. No. 66-01366 (Chemical Abstract, Vol. 68 95548A) discloses a process for the preparation of 3-nitrobenzoic by adding anhydrous nitric acid to a mixture of benzoic acid and sulfur trioxide. After the addition is completed, the sulfor trioxide is evaporated to obtain a white solid which is recrystallized from a mixture of alcohol and water to obtain pure 3-nitrobenzoic acid, m.p. 141° C.

reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | benzoic acid | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | sulfur trioxide | S(=O)(=O)=O | O3S
product | 3-nitrobenzoic acid | [N+](=O)([O-])C=1C=C(C(=O)O)C=CC1 | C7H5NO4
